US08304419B2
Step A: ethyl 4-{[(1E)-(dimethylamino)methylidene]amino}-1H-imidazole-5-carboxylate
A solution of ethyl 4-amino-1H-imidazole-5-carboxylate (0.65 g, 4.19 mmol) and DMF-DMA (11.22 ml, 84 mmol) in DMF (3 mL) was stirred at RT under nitrogen for 3 days. The excess DMF-DMA and DMF were removed under vacuum to give the desired compound as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 10.34-13.68 (m, 1H), 8.09 (s, 1H), 7.36 (s, 1H), 4.12 (q, 2H), 2.96 (d, 6H), 1.22 (t, 3H).

reactant | ethyl 4-amino-1H-imidazole-5-carboxylate | 4.19 mmol, 0.65 g | NC=1N=CNC1C(=O)OCC | C6H9N3O2
reactant | DMF-DMA | 84 mmol, 11.22 ml | CN(C)C(OC)OC | C5H13NO2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | ethyl 4-{[(1E)-(dimethylamino)methylidene]amino}-1H-imidazole-5-carboxylate | CN(C)\C=N\C=1N=CNC1C(=O)OCC | C9H14N4O2
